US08614215B2
Intermediate 18: 5-methoxy-2-(tetrahydro-2H-pyran-4-ylmethyl)aniline
4-(4-methoxy-2-nitrobenzylidene)tetrahydro-2H-pyran (1.8 g; 7.22 mmol; 1 eq) is dissolved in EtOH (100 mL) and palladium on charcoal (180 mg, 10%) is added at room temperature under argon. The solution is treated with hydrogen at atmospheric pressure. After 7 h at room temperature, the reaction is complete. The mixture is filtered through celite and the filtrate is concentrated under reduced pressure to afford 1.5 g (94%) of the title compound as an orange oil. 1H NMR (DMSO-d6) δ 6.72 (d, J=8.3 Hz, 1H), 6.18 (d, J=2.6 Hz, 1H), 6.04 (dd, J=8.3, 2.6 Hz, 1H), 4.82 (s, 2H), 3.82-3.77 (m, 2H), 3.62 (s, 3H), 3.19 (td, J=11.7, 1.8 Hz, 2H), 2.29 (d, J=6.8 Hz, 2H), 1.72-1.61 (m, 1H), 1.51-1.46 (m, 2H), 1.24-1.10 (m, 2H). HPLC (max plot) 88%; Rt 1.83 min LC/MS: (ES+): 222.4.

reactant | 4-(4-methoxy-2-nitrobenzylidene)tetrahydro-2H-pyran | 7.22 mmol, 1.8 g, 1 eq | COC1=CC(=C(C=C2CCOCC2)C=C1)[N+](=O)[O-] | C13H15NO4
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | palladium on charcoal | 180 mg | [Pd] | Pd
product | 5-methoxy-2-(tetrahydro-2H-pyran-4-ylmethyl)aniline | 1.5 g, 94% | COC=1C=CC(=C(N)C1)CC1CCOCC1 | C13H19NO2
